US09233956B2
Step A: 1,1-Dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-piperazinecarboxylate
Following a procedure analogous to Intermediate 6 using N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (2.00 g, 4.53 mmol), NBS (0.85 g, 4.75 mmol) and 1,1-dimethylethyl 4-(aminocarbonothioyl)-1-piperazinecarboxylate (2.22 g, 9.05 mmol) the title compound of Step A was obtained (1.16 g, 38% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.93 (s, 1H), 8.30 (d, J=5.49 Hz, 1H), 7.62-7.76 (m, 1H), 7.46 (td, J=7.46, 1.28 Hz, 1H), 7.38 (t, J=6.09 Hz, 1H), 7.32 (t, J=7.78 Hz, 1H), 7.25 (t, J=9.11 Hz, 2H), 6.46 (d, J=5.40 Hz, 1H), 3.56 (br. s., 4H), 3.47 (br. s., 4H), 1.42 (s, 9H). m/z (ES+): 668 [M+H]+.

reactant | N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 4.53 mmol, 2.00 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C18H11ClF3N3O3S
reactant | NBS | 4.75 mmol, 0.85 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 1,1-dimethylethyl 4-(aminocarbonothioyl)-1-piperazinecarboxylate | 9.05 mmol, 2.22 g | NC(=S)N1CCN(CC1)C(=O)OC(C)(C)C | C10H19N3O2S
product | 1,1-Dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-piperazinecarboxylate | 38% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C28H26ClF3N6O4S2
